US05071468
To 30g of 2-ethoxyethanol in 300ml of tetrahydrofuran 27.4ml of pyridine were added and 26.4ml of mesyl chloride added dropwise at room temperature over 15 minutes. The mixture was refluxed overnight, the solid that formed filtered off and the solvent evaporated off from the residue. The residue was distilled under 20m Hg to give 2-ethoxyethyl methanesulphonate.

reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 26.4ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | tetrahydrofuran | 300ml | O1CCCC1 | C4H8O
product | 2-ethoxyethyl methanesulphonate | CS(=O)(=O)OCCOCC | C5H12O4S
